US04943616
1,1,3,3-tetramethylbutyl hydroperoxide;
t-butyl hydroperoxide; cumene hydroperoxide;

reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | cumene hydroperoxide | [O-]O.C1(=CC=CC=C1)C(C)C
product | 1,1,3,3-tetramethylbutyl hydroperoxide | CC(CC(C)(C)C)(C)OO | C8H18O2
